US08242104B2
A vessel was charged with 8-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (237 mg, 0.56 mmol), PdCl2dppf.DCM (46 mg, 0.06 mmol, 10 mol %) and cesium carbonate (456 mg, 1.40 mmol) before being evacuated and refilled with nitrogen. To the resultant mixture was added a solution of 3-trifluoromethanesulfonyloxy-8-aza-bicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester (402 mg, 0.56 mmol) in DME (2 mL), followed by water (0.2 mL). The reaction was evacuated and refilled with nitrogen before being stirred at 110° C. for 1.5 h. The reaction mixture was partitioned between ethyl acetate and water, the organic phase was separated, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-100% ethyl acetate in cyclohexane) to give 3-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-8-aza-bicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester as a colourless oil (177 mg, 0.35 mmol, 63%). LCMS RT=4.84 min, [M+H]+=503

reactant | 8-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 0.56 mmol, 237 mg | CC1(COB(OC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)C | C21H26BN5O3
reactant | DCM | 0.06 mmol, 46 mg | C(Cl)Cl | CH2Cl2
reactant | cesium carbonate | 1.40 mmol, 456 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-trifluoromethanesulfonyloxy-8-aza-bicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester | 0.56 mmol, 402 mg | C(C)(C)(C)OC(=O)N1C2C=C(CC1CC2)OS(=O)(=O)C(F)(F)F | C13H18F3NO5S
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | water | 0.2 mL | O | H2O
product | 3-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-8-aza-bicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester | 0.35 mmol, 177 mg, 63% | C(C)(C)(C)OC(=O)N1C2C=C(CC1CC2)C2=CC1=C(C3=NC(=CN3CCO1)C=1N(N=CN1)C(C)C)C=C2 | C28H34N6O3
